US07572820B2
H. 4-Chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile
To a solution of 4-chloro-2-(difluoromethyl)-1-(phenylsulfonyl)-1H-indole-5-carbonitrile (1.05 g, 2.85 mmol) in anhydrous THF (12 mL) under N2, was added TBAF (1M in THF, 8.6 mL) and the mixture was heated at 75° C. for 2 h. Upon cooling, the mixture was partitioned between EtOAc and 0.2N HCl. The organic phase was washed with 0.2N HCl and sat'd brine. The combined aqueous phases were reextracted with EtOAc. The second EtOAc phase was washed with 0.2N HCl and sat'd brine. The combined organic phases were dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (0-50% EtOAc-hexanes gradient) to afford the title compound as a light yellow solid (0.595 g, 92% yield): 1H NMR (400 MHz, CD3OD) δ 7.53 (d, J=8.6 Hz, 1H), 7.51 (d, J=8.8 Hz, 1H), 7.03 (t, J=54.2 Hz, 1H), 6.95 (bt, J=2 Hz, 1H); MS (ES) m/z 227 (M+1).

reactant | 4-chloro-2-(difluoromethyl)-1-(phenylsulfonyl)-1H-indole-5-carbonitrile | 2.85 mmol, 1.05 g | ClC1=C2C=C(N(C2=CC=C1C#N)S(=O)(=O)C1=CC=CC=C1)C(F)F | C16H9ClF2N2O2S
reactant | TBAF | 1M, 8.6 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 4-Chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile | 0.595 g, 92% yield | ClC1=C2C=C(NC2=CC=C1C#N)C(F)F | C10H5ClF2N2
